US07579341B2
A6e) ethyl([1,4′]bipiperidinyl-4-yl-tert-butoxycarbonyl-amino)-acetate
A suspension of 1.30 g (2.83 mmol) ethyl [(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-tert-butoxycarbonyl-amino]-acetate and 0.16 g 10% Pd/C in 25 mL EtOH was hydrogenated for 5 h at 50° C. and 50 psi hydrogen pressure. The catalyst was removed by suction filtering and the filtrate was evaporated to dryness. The product was obtained as a colourless oil, which was reacted further without purification.

reactant | ethyl [(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-tert-butoxycarbonyl-amino]-acetate | 2.83 mmol, 1.30 g | C(C1=CC=CC=C1)N1CCC(CC1)N1CCC(CC1)N(C(=O)OC(C)(C)C)CC(=O)OCC | C26H41N3O4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 0.16 g | [Pd] | Pd
product | ethyl([1,4′]bipiperidinyl-4-yl-tert-butoxycarbonyl-amino)-acetate | C(C)OC(CN(C(=O)OC(C)(C)C)C1CCN(CC1)C1CCNCC1)=O | C19H35N3O4
